US07767675B2
Step 3. N,N-dimethyl-2-{3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-yl}acetamide
A mixture of tert-butyl 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-ylacetate (10 mg, 0.02 mmol) in trifluoroacetic acid (0.5 mL) and methylene chloride (0.5 mL) was stirred overnight at RT. The volatiles were removed under reduced pressure. The residue [LCMS: (M+H)=411.0] was dissolved in N,N-dimethylformamide (0.5 mL) and treated with dimethylamine (2M in THF, 0.016 mL, 0.032 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (11 mg, 0.026 mmol), and N,N-diisopropylethylamine (11 μL, 0.064 mmol). The reaction mixture was stirred overnight at RT, and then purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=438.1.

reactant | tert-butyl 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-ylacetate | 0.02 mmol, 10 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C2=NN(C=C2)CC(=O)OC(C)(C)C | C27H26N6O2
reactant | dimethylamine | 0.032 mmol, 2M, 0.016 mL | CNC | C2H7N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.026 mmol, 11 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.064 mmol, 11 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-2-{3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-yl}acetamide | CN(C(CN1N=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O)C | C25H23N7O
